US05416089
Part A: Naphtho[1,2-b]furan-5,6-dicarboxylic Anhydride
As described in example 14, the following compounds were prepared from dimethyl homophthalate and 3-furaldehyde:

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | 3-furaldehyde | O1C=C(C=C1)C=O | C5H4O2
product | Naphtho[1,2-b]furan-5,6-dicarboxylic Anhydride | O1C2=C(C=C1)C=C1C=3C(=CC=CC32)C(=O)OC1=O | C14H6O4
